US09079914B2
Synthesis of ethyl 5-ethoxypyrazine-2-carboxylate 27-(1)
A stirred solution of methyl 5-chloropyrazine-2-carboxylate (0.50 g) in ethanol (10 mL) was cooled to 0° C., and sodium ethoxide (21% w/w solution in ethanol, 1 mL) was added over 10 mins. After allowing to warm to RT and stir for 2 h, water (100 mL) was added and the mixture extracted with EtOAc (2×150 mL). The combined organic portions were dried over MgSO4 and evaporated to afford the title compound. (0.65 g, purity approx. 85%) 1H NMR (400 MHz, CDCl3) δ ppm 1.45 (t, J=7.1 Hz, 3H), 1.46 (t, J=7.1 Hz, 3H), 4.48 (q, J=7.1 Hz, 2H), 4.49 (q, J=7.1 Hz, 2H), 8.28 (d, J=1.3 Hz, 1H), 8.88 (d, J=1.3 Hz, 1H)

reactant | methyl 5-chloropyrazine-2-carboxylate | 0.50 g | ClC=1N=CC(=NC1)C(=O)OC | C6H5ClN2O2
reactant | sodium ethoxide | 1 mL | [O-]CC.[Na+]
reactant | water | 100 mL | O | H2O
reactant | ethanol | 10 mL | C(C)O | C2H6O
product | ethyl 5-ethoxypyrazine-2-carboxylate | C(C)OC=1N=CC(=NC1)C(=O)OCC | C9H12N2O3
